US06469020B2
3-Methyl-2-(1,3,4,9-tetrahydro-β-carboline-2-sulfonylmethyl)-butyric Acid
A solution of 2-chlorosulfonylmethyl-3-methylbutyric acid tert-butyl ester (271 mg) in dichloromethane (5 ml) was added to a mixture of 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole (172 mg) and triethylamine (0.42 ml) in dichloromethane (10 ml) at room temperature. The mixture was stirred for 2 h before addition of trifluoroacetic acid (2.4 ml), and stirring continued for a further 2 h. The mixture was evaporated to dryness and the residue partitioned between 1M aqueous sodium hydroxide (15 ml) and diethyl ether (15 ml). The organics were extracted with 1M sodium hydroxide (15 ml). The combined aqueous portions were acidified to pH=5 with 10% citric acid and extracted with ethyl acetate (4×20 ml). The combined organics were washed with water (2×10 ml) and brine (10 ml), then dried (MgSO4), filtered and the solvent removed under reduced pressure to give, after chromatography (SiO2, 20:1 dichloromethane-methanol), the title compound (66 mg, 19%) as a white foam.

reactant | 2-chlorosulfonylmethyl-3-methylbutyric acid tert-butyl ester | 271 mg | C(C)(C)(C)OC(C(C(C)C)CS(=O)(=O)Cl)=O | C10H19ClO4S
reactant | 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 172 mg | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 2.4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-Methyl-2-(1,3,4,9-tetrahydro-β-carboline-2-sulfonylmethyl)-butyric Acid | 66 mg, 19% | CC(C(C(=O)O)CS(=O)(=O)N1CC=2NC3=CC=CC=C3C2CC1)C | C17H22N2O4S
